US07842688B2
c) (3-Trityl-3H-benzimidazol-4-yl)methanol
A suspension of 0.210 g of lithium aluminium hydride in 15 ml of anhydrous tetrahydrofuran is cooled under argon to 0° C. A solution of 2.300 g of methyl 3-trityl-3H-benzimidazole-4-carboxylate in 25 ml of anhydrous tetrahydrofuran is added dropwise to the suspension over 5 minutes and the reaction mixture is subsequently stirred at 0° C. over one hour. The reaction mixture is subsequently poured slowly onto 80 ml of 1M sodium potassium tartrate solution and admixed with ethyl acetate (100 ml). The phases are separated and the aqueous phase is extracted with (100 ml)of ethyl acetate. The combined organic phases are washed with 100 ml of water, dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a reddish foam and is used for the next stage without further purification. Rt=4.04.

reactant | lithium aluminium hydride | 0.210 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-trityl-3H-benzimidazole-4-carboxylate | 2.300 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC2=C1C(=CC=C2)C(=O)OC | C28H22N2O2
reactant | sodium potassium tartrate | 1M, 80 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (3-Trityl-3H-benzimidazol-4-yl)methanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC2=C1C(=CC=C2)CO | C27H22N2O
